US05047402
a. Methyl 4-[2-chloro-1-methyl-5-(1-methyl-2-oxopyrrolidin-3-ylmethyl)indol-3-ylmethyl]-3-methoxybenzoate
N-Chlorosuccinimide (0.282 mg) was added in one portion to a stirred solution of methyl 4-[1-methyl -5-(1-methyl-2-oxopyrrolidin-3-ylmethyl)indol-3-ylmethyl]-3-methoxybenzoate (0.9 g) in dry dichloromethane (20 ml), under a nitrogen atmosphere. After 15 minutes, the solvent was evaporated, and the product was purified by flash chromatography, eluting with ethyl acetate, to give methyl 4-[2-chloro-1-methyl-5-(1-methyl-2-oxopyrrolidin -3-ylmethyl)indol-3-ylmethyl](65%) as a yellow oil: NMR (300 MHz, DMSO-d6): 1.45-1.61 (m, lH), 1.75-1.90 (m, lH), 2.50-2.70 (m, 5H), 2.90-3.18 (m, 3H), 3.72 (s, 3H, CH3), 3.82 (s, 3H, CH3), 3.92 (s, 3H, CH3), 4.02 (s, 2H), 6.99-7.10 (m, 2H), 7.20 (s, 1), 7.38 (d, lH), 7.40-7.50 (m, 2H).

reactant | N-Chlorosuccinimide | 0.282 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | methyl 4-[1-methyl -5-(1-methyl-2-oxopyrrolidin-3-ylmethyl)indol-3-ylmethyl]-3-methoxybenzoate | 0.9 g | CN1C=C(C2=CC(=CC=C12)CC1C(N(CC1)C)=O)CC1=C(C=C(C(=O)OC)C=C1)OC | C25H28N2O4
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | Methyl 4-[2-chloro-1-methyl-5-(1-methyl-2-oxopyrrolidin-3-ylmethyl)indol-3-ylmethyl]-3-methoxybenzoate | ClC=1N(C2=CC=C(C=C2C1CC1=C(C=C(C(=O)OC)C=C1)OC)CC1C(N(CC1)C)=O)C | C25H27ClN2O4
